US08461107B2
Step 1: 2-(Carboxymethyl)-4-methoxybenzoic acid
A solution of diisopropylamine (3.43 ml, 24.07 mmol) in THF (3 mL) was cooled to −78° C. and n-butyllithium (9.63 ml, 24.07 mmol) was added dropwise and allowed the solution to warm to 0° C. for 5 min and then re-cooled to −78° C. 4-methoxy-2-methylbenzoic acid (1 g, 6.02 mmol) and dimethyl carbonate (1.013 ml, 12.04 mmol) in THF (3 mL) was added dropwise. After the addition is complete, the reaction is allowed to slowly warm to RT and stir for 4 h. The reaction was quenched with 10 mL of H2O and allowed to stir for 16 h. The layers were separated, washed the organics with H2O (2×), combined all the aqueous extractions and adjusted the pH to 2-3 with 6N HCl while in an ice bath. The resulting in a white precipitate was filtered and dried under vacuum to afford the title compound (1.09 g, 86%) as a white solid. LCMS (ES+) m/z 211.05 (M+H)+.

reactant | diisopropylamine | 24.07 mmol, 3.43 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 24.07 mmol, 9.63 ml | C(CCC)[Li]
reactant | 4-methoxy-2-methylbenzoic acid | 6.02 mmol, 1 g | COC1=CC(=C(C(=O)O)C=C1)C | C9H10O3
reactant | dimethyl carbonate | 12.04 mmol, 1.013 ml | C(OC)(OC)=O | C3H6O3
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2-(Carboxymethyl)-4-methoxybenzoic acid | 1.09 g, 86% | C(=O)(O)CC1=C(C(=O)O)C=CC(=C1)OC | C10H10O5
